US07462624B2
Step C: 5-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-[1,2,4]triazolo[3,4-i]purine
A mixture of (6Z)-2-chloro-9-(tetrahydro-2H-pyran-2-yl)-1,9-dihydro-6H-purin-6-one hydrazone [which is a tautomeric form of 2-chloro-6-hydrazino-9-(tetrahydro-2H-pyran-2-yl)-9H-purine; 0.1 g, 0.5 mmol] and ethyl orthoformate (3 g, 20 mmol) was stirred at 98° C. for 12 hours. The reaction mixture was concentrated under reduced pressure to provide the product. LCMS calculated for C11H12ClN6O (M+H): 279.1; found: 279.0.

reactant | (6Z)-2-chloro-9-(tetrahydro-2H-pyran-2-yl)-1,9-dihydro-6H-purin-6-one hydrazone | ClC=1N\C(\C=2N=CN(C2N1)C1OCCCC1)=N/N | C10H13ClN6O
reactant | 2-chloro-6-hydrazino-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NN | C10H13ClN6O
reactant | ethyl orthoformate | 20 mmol, 3 g | C(OCC)([O-])[O-]
product | 5-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-[1,2,4]triazolo[3,4-i]purine | ClC=1N2C(C=3N=CN(C3N1)C1OCCCC1)=NN=C2 | C11H11ClN6O
